US09388189B2
(S)-tert-Butyl (4-(benzyloxy)-1-oxo-1-((2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)butan-2-yl)carbamate
1-Amino-N-phenyl-1H-pyrrole-2-carboxamide (0.65 g, 3.23 mmol) was treated with (S)-4-(benzyloxy)-2-((tert-butoxycarbonyl)amino)butanoic acid (1 g, 3.23 mmol), N,N-diisopropylethylamine (1.9 mL, 10.66 mmol) and T3P® (50% in ethyl acetate, 2.7 mL, 4.52 mmol) according to the method of Preparation 5a to give 1.57 g (98% yield) of the desired compound. Purity 97%.

reactant | 1-Amino-N-phenyl-1H-pyrrole-2-carboxamide | 3.23 mmol, 0.65 g | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
reactant | (S)-4-(benzyloxy)-2-((tert-butoxycarbonyl)amino)butanoic acid | 3.23 mmol, 1 g | C(C1=CC=CC=C1)OCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C16H23NO5
reactant | N,N-diisopropylethylamine | 10.66 mmol, 1.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-tert-Butyl (4-(benzyloxy)-1-oxo-1-((2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)butan-2-yl)carbamate | 1.57 g, 98% yield | C(C1=CC=CC=C1)OCC[C@@H](C(NN1C(=CC=C1)C(NC1=CC=CC=C1)=O)=O)NC(OC(C)(C)C)=O | C27H32N4O5
